US04889866
A. Preparation of (-)-4-(2-chlorophenyl)-3-(4-methoxyphenyl)sulfinyl-5-methoxy-carbonyl-2,6-dimethyl-1,4-dihydropyridine and Related Compounds of Formula K*
A solution of (-)-4-methoxyphenylsulfinylacetone (10.0 g), prepared as in Preparation II above, 2-chlorobenzaldehyde (7.3 g), and NH4OAc (100 mg) in toluene (150 ml) was heated at reflux using a Dean-Stark water separator for 2 hours. About 90 ml of the solvent was removed in vacuo. Methyl β-aminocrotonate (11.5 g) and methanol (75 ml) were added to the remaining solution. After heating at reflux for 20 hours, the reaction mixture was cooled and evaporated to dryness. The residue was chromatographed on silica gel (1:1 dichloromethane/ethyl acetate) to give the two pure sulfinyldihydropyridine diastereomers in a ratio of approximately 10:1. The major isomer was (-)-4-(2-chlorophenyl)-3-(4-methoxyphenyl)sulfinyl-5-methoxycarbonyl-2,6-dimethyl-1,4-dihydropyridine, m.p. 188°-190° C., [α]D =-27° (C=0.060, methanol).

reactant | (-)-4-(2-chlorophenyl)-3-(4-methoxyphenyl)sulfinyl-5-methoxycarbonyl-2,6-dimethyl-1,4-dihydropyridine | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)C)S(=O)C1=CC=C(C=C1)OC | C22H22ClNO4S
reactant | methanol | CO | CH4O
product | (-)-4-(2-chlorophenyl)-3-(4-methoxyphenyl)sulfinyl-5-methoxy-carbonyl-2,6-dimethyl-1,4-dihydropyridine | ClC1=C(C=CC=C1)C1C(=C(NC(=C1OC)C=C=O)C)S(=O)C1=CC=C(C=C1)OC | C22H20ClNO4S
